US20010027196A1
4-Furan-2-yl-5-nitro-6-(4-phenyl-butoxy)-pyrimidin-2-ylamine
From trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester, 4-phenyl-1-butanol and DBU in DME. ES-MS ni/e (%): 355 (M+H+, 100).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | 4-phenyl-1-butanol | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-Furan-2-yl-5-nitro-6-(4-phenyl-butoxy)-pyrimidin-2-ylamine | O1C(=CC=C1)C1=NC(=NC(=C1[N+](=O)[O-])OCCCCC1=CC=CC=C1)N | C18H18N4O4
